US08629137B2
3-{1-[6-(3,4-dimethyl-2-oxo-2,3-dihydro-benzoxazole-6-carbonyl)-pyrimidin-4-yl]-piperidin-4-yl}-1,3-dihydro-imidazo[4,5-c]quinolin-2-one
0.11 g (0.40 mmol) 3-piperidin-4-yl-1,3-dihydroimidazo[4,5-c]quinolin-2-one, 0.12 g (0.40 mmol) 6-(6-chloropyrimidine-4-carbonyl)-3,4-dimethyl-3H-benzoxazol-2-one and 0.14 mL (0.80 mmol) DIPEA were stirred overnight in 3 mL DMF at RT. The mixture was purified by preparative HPLC-MS. The fractions containing the product were combined, the organic solvent was eliminated i. vac. and the aqueous phase remaining was neutralised with 4M aqueous NaOH solution. The precipitate was suction filtered, washed with water and dried i. vac.

reactant | 3-piperidin-4-yl-1,3-dihydroimidazo[4,5-c]quinolin-2-one | 0.40 mmol, 0.11 g | N1CCC(CC1)N1C(NC2=C1C=NC=1C=CC=CC21)=O | C15H16N4O
reactant | 6-(6-chloropyrimidine-4-carbonyl)-3,4-dimethyl-3H-benzoxazol-2-one | 0.40 mmol, 0.12 g | ClC1=CC(=NC=N1)C(=O)C1=CC2=C(N(C(O2)=O)C)C(=C1)C | C14H10ClN3O3
reactant | DIPEA | 0.80 mmol, 0.14 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
product | 3-{1-[6-(3,4-dimethyl-2-oxo-2,3-dihydro-benzoxazole-6-carbonyl)-pyrimidin-4-yl]-piperidin-4-yl}-1,3-dihydro-imidazo[4,5-c]quinolin-2-one | CN1C(OC2=C1C(=CC(=C2)C(=O)C2=CC(=NC=N2)N2CCC(CC2)N2C(NC1=C2C=NC=2C=CC=CC12)=O)C)=O | C29H25N7O4
